US05268490
Hydroiodic acid (50%, 205 parts) was added to 2-(3-methoxyphenyl)-1,3-indandione (67.1 parts) and the mixture was stirred under reflux for 10 minutes. By-product methyl iodide was removed by distillation and the solution was cooled to 20° C. The aqueous layer was decanted to leave a red oil. The oil was dissolved in chloroform (250 parts), washed with water (100 parts), separated and dried over anhydrous magnesium sulphate. The chloroform was removed by evaporation under reduced pressure to leave an orange solid. The solid was crystallised from toluene (1800 parts) to yield 2-(3-hydroxyphenyl)-1,3-indandione (30.6 parts), m.pt. 139°-141° C.

reactant | Hydroiodic acid | I | HI
reactant | 2-(3-methoxyphenyl)-1,3-indandione | COC=1C=C(C=CC1)C1C(C2=CC=CC=C2C1=O)=O | C16H12O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-(3-hydroxyphenyl)-1,3-indandione | OC=1C=C(C=CC1)C1C(C2=CC=CC=C2C1=O)=O | C15H10O3
